US08202873B2
Dissolve (3,5-diethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-acetic acid ethyl ester (0.54 g, 1.88 mmol) in tetrahydrofuran (20 mL) and cool to −78° C. Add diisobutyl-aluminum hydride (7.52 mL, 7.52 mmol, 1 M in toluene) dropwise and continue to stir for 2.5 hr. Warm to room temperature over 1 hr. then quench with saturated aqueous potassium sodium tartrate solution (50 mL). Add ethyl acetate (100 mL) and stir at room temperature for 16 hr. Separate the organic layer, dry (sodium sulfate), filter and concentrate. Purify using silica gel chromatography, eluting with 80:20 hexanes:ethyl acetate, to give 2-(3,5-diethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethanol as a white solid (0.30 g, 66%). 1H-NMR (400 MHz, CDCl3) δ 8.39 (m, 1H), 7.80 (d, 1H), 7.73 (m, 1H), 7.12 (m, 1H), 3.72 (m, 2H), 3.08 (q, 2H), 2.67 (m, 4H), 1.58 (bs, 1H), 1.28 (t, 3H), 1.15 (t, 3H).

reactant | (3,5-diethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-acetic acid ethyl ester | 1.88 mmol, 0.54 g | C(C)OC(CC=1C(=NN(C1CC)C1=NC=CC=C1)CC)=O | C16H21N3O2
reactant | diisobutyl-aluminum hydride | 7.52 mmol, 1 M, 7.52 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(3,5-diethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethanol | 0.30 g, 66% | C(C)C1=NN(C(=C1CCO)CC)C1=NC=CC=C1 | C14H19N3O
